US08314098B2
(Step 3): N-{2-(3-Chlorophenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine (Compound 12)
There was suspended, in ethanol (2 mL), 5-chloro-2-(3-chloro-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (50.5 mg, 0.145 mM) and then potassium carbonate (22.0 mg, 0.160 mM) and hydrazine monohydrate (35.2 μL, 0.725 mM) were added to the suspension. This suspension was stirred at 150° C. for 20 minutes under the irradiation with microwaves. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined together and dried over anhydrous sodium sulfate and then the solvent was distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (17.1 μL, 0.145 mM) were added to the suspension and the mixture was stirred at room temperature for one hour. This reaction mixture was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to give the title compound (42.8 mg, overall yield of these two steps: 66%).

reactant | 5-chloro-2-(3-chloro-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.145 mM, 50.5 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC(=CC=C2)Cl | C16H14Cl2N4O
reactant | potassium carbonate | 0.160 mM, 22.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 0.725 mM, 35.2 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-{2-(3-Chlorophenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl}-N′-(3-methyl-benzylidene)-hydrazine | ClC=1C=C(C=CC1)C1=NN2C(N=C(C=C2N2CCOCC2)NN=CC2=CC(=CC=C2)C)=C1 | C24H23ClN6O
